US04105648
71 g (1 mol) of acrylic acid amide are dissolved in 750 ml of anhydrous triethylamine in a 6 liter three-necked flask equipped with a stirrer and a reflux condenser. 270 g (2.5 mols) of trimethylchlorosilane are then added dropwise over the course of 2 hours at room temperature (approximately 25° C). The temperature is then slowly raised to 60° C and the reaction mixture is stirred for about 16 hours at this temperature. The triethylamine hydrochloride which has precipitated is filtered off under protective gas and the filter cake obtained is rinsed with 200 ml of triethylamine. The triethylamine is then distilled off under a slight vacuum at 40°-45° C. The resulting concentrated filtrate is subjected to a purification distillation with addition of a little sulphur as a polymerisation inhibitor. 149 g (69% of theory) of bis-trimethylsilylacrylic acid amide, boiling at 71° C/20 mm Hg, are obtained.

reactant | acrylic acid amide | 1 mol, 71 g | C(C=C)(=O)N | C3H5NO
reactant | trimethylchlorosilane | 2.5 mols, 270 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | triethylamine | 750 ml | C(C)N(CC)CC | C6H15N
product | bis-trimethylsilylacrylic acid amide | 149 g, 69% | C[Si](C)(C)C(=CC(=O)N)[Si](C)(C)C | C9H21NOSi2
